US09057946B2
2-[(Biphenyl-3-yloxy)methyl]oxirane
7.4 g of 3-phenylphenol, 52.7 g of 2-butanone and 21.5 g of potassium carbonate were initially charged to a three-neck flask equipped with KPG stirrer and stirring motor and also drier tube. After conditioning to 22° C. 23.8 g of epibromohydrin were added dropwise within about 2 hours, the temperature increased to 80° C. and then the mixture was stirred at about 75° C. for a further 45 hours. This was followed by filtration and removal of the solvent in a rotary evaporator to obtain a clear yellowish thinly liquid product.

reactant | 3-phenylphenol | 7.4 g | C1(=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O
reactant | potassium carbonate | 21.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | epibromohydrin | 23.8 g | C(Br)C1CO1 | C3H5BrO
solvent | 2-butanone | 52.7 g | CC(CC)=O | C4H8O
product | 2-[(Biphenyl-3-yloxy)methyl]oxirane | C1(=CC(=CC=C1)OCC1OC1)C1=CC=CC=C1 | C15H14O2
